US08580824B2
A solution of 2-isobutyl-6-methoxy-isonicotinic acid methyl ester (1.20 g, 5.38 mmol) in 25% aq. HCl (60 mL) is stirred at 65° C. for 16 h. The solvent is removed in vacuo and the residue is dried under HV to give 2-isobutyl-6-methoxy-isonicotinic acid hydrochloride (1.20 g) as a solid; LC-MS*: tR=0.48 min, [M+1]+=210.1.

reactant | 2-isobutyl-6-methoxy-isonicotinic acid methyl ester | 5.38 mmol, 1.20 g | COC(C1=CC(=NC(=C1)OC)CC(C)C)=O | C12H17NO3
reactant | HCl | 60 mL | Cl | ClH
product | 2-isobutyl-6-methoxy-isonicotinic acid hydrochloride | 1.20 g | Cl.C(C(C)C)C=1C=C(C(=O)O)C=C(N1)OC | InChI=1S/C11H15NO3.ClH/c1-7(2)4-9-5-8(11(13)14)6-10(12-9)15-3;/h5-7H,4H2,1-3H3,(H,13,14);1H
